US06797823B1
Next, 4-chloroquinoline derivative or a corresponding quinazoline derivative is allowed to act on nitrophenol in the presence of a suitable solvent or in the absence of a solvent to synthesize a 4-(nitrophenoxy)quinoline derivative or a corresponding quinazoline derivative which is then stirred in a suitable solvent, for example, N,N-dimethylformamide, in the presence of a catalyst, for example, palladium hydroxide-carbon or palladium-carbon, in a hydrogen atmosphere to give a 4-(aminophenoxy)quinoline derivative or a corresponding quinazoline derivative. Alternatively, a 4-chloroquinoline derivative or a corresponding quinazoline derivative may be allowed to act on aminophenol in the presence of a base, for example, sodium hydride, to give a 4-(aminophenoxy)quinoline derivative or a corresponding quinazoline derivative.

reactant | 4-chloroquinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | quinazoline | N1=CN=CC2=CC=CC=C12 | C8H6N2
reactant | 4-(nitrophenoxy)quinoline | [N+](=O)([O-])C1=C(OC2=CC=NC3=CC=CC=C23)C=CC=C1 | C15H10N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide carbon | [OH-].[Pd+2].[OH-].[C]
catalyst | palladium-carbon | [C].[Pd]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(aminophenoxy)quinoline | NC1=C(OC2=CC=NC3=CC=CC=C23)C=CC=C1 | C15H12N2O
